US05324743
E. 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylic acid.
A solution of ethyl 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate in dioxane (3.5M solution) was treated with 2N NaOH (3.0 eqv) and stirred at room temperature. After stirring for 4 hours, the dioxane was removed from the reaction, and the remaining solution was diluted with water and acidified with 5N HC1. The resulting milky solution was extracted with EtOAc. The ethyl acetate extract was dried over MgSO4 and filtered. Solvent removal gave a white solid. The solid was purified by flash chromatography on silica gel eluting with 50% EtOAc/Hexane, and the resulting solid was crystallized from EtOAc and hexane. The desired acid was obtained in 47% yield.

reactant | ethyl 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate | C(C)(=O)C1=CC(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)OCC)C=C2)CCC)C=C1O)CC | C28H36O7
reactant | NaOH | 2N, 3.0 eqv | [OH-].[Na+]
solvent | dioxane | 3.5M | O1CCOCC1 | C4H8O2
product | 7-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylic acid | 47% yield | C(C)(=O)C1=CC(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)O)C=C2)CCC)C=C1O)CC | C26H32O7
